US06455520B1
N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-6-morpholinopyridine-2-carboxamide
A mixture of N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-6-chloropyridine-2-carboxamide (0.2 g) and morpholine (3 ml) was stirred and heated to 110° C. for 16 hours. The resultant solution was cooled to ambient temperature and poured into water and extracted with methylene chloride. The organic phase was evaporated and the residue was purified by reversed-phase column chromatography on a C18 isolute column eluting initially with water and then with a 5:1 mixture of water and methanol. There was thus obtained the title compound (0.169 g); NMR Spectrum: (DMSOd6) 2.15 (s, 3H), 2.19 (s, 3H), 2.25-2.39 (m, 8H), 3.52 (s, 2H), 3.57-3.6 (m, 4H), 3.71-3.75 (m, 4H), 7.05 (d, 1H), 7.22 (d, 1H), 7.4-7.49 (m, 3H), 7.64 (d, 1H), 7.76 (t, 1H), 7.82-7.88 (m, 3H), 9.92 (s, 1H), 10.08 (s, 1H); Mass Spectrum: M+H+ 529.

reactant | N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-6-chloropyridine-2-carboxamide | 0.2 g | CN1CCN(CC1)CC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C2=NC(=CC=C2)Cl)C=CC1 | C26H28ClN5O2
reactant | morpholine | 3 ml | N1CCOCC1 | C4H9NO
solvent | water | O | H2O
product | N-{3-[3-(4-methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}-6-morpholinopyridine-2-carboxamide | 0.169 g | CN1CCN(CC1)CC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C2=NC(=CC=C2)N2CCOCC2)C=CC1 | C30H36N6O3
